US07642269B2
The compound prepared in Example 6 (501.1 mg, 1.23 mmol) was treated with a saturated sodium bicarbonate solution to obtain 1-benzyl-7-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2,3-dimethyl-1H-pyrrolo[3,2-b]pyridine (433.6 mg, 1.18 mmol). Ammonium cerium (IV) nitrate (1.94 g, 3.54 mmol) was added at room temperature to a solution of 1-benzyl-7-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2,3-dimethyl-1H-pyrrolo[3,2-b]pyridine (433.6 mg, 1.18 mmol) in acetic acid (10 ml). The reaction mixture was stirred for 4 hours at 55° C., cooled to room temperature, poured in water, and then extracted with ethyl acetate. The resulting organic layer was washed with a saturated sodium chloride solution, dried on anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was dissolved in methanol (20 ml). 2N Lithium hydroxide (5.0 ml) was added to the solution, which was then stirred for 1 hour at room temperature. The reaction mixture was neutralized with 1N hydrochloric acid, concentrated under reduced pressure to discard methanol, and then extracted with ethyl acetate. The resulting organic layer was dried on anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified with silica gel column chromatography to give 1-benzyl-7-(1,2,3,4-tetrahydroisoquinolin-2-yl)-3-hydroxymethyl-2-methyl-1H-pyrrolo[3,2-b]pyridine, which was then dissolved in ethyl acetate. The solution was saturated with hydrochloric acid gas and then filtered to give the titled compound as a white solid (69 mg, 13.9%).

reactant | Ammonium cerium (IV) nitrate | 3.54 mmol, 1.94 g | [N+](=O)([O-])[O-].[Ce+4].[NH4+].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | 1-benzyl-7-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2,3-dimethyl-1H-pyrrolo[3,2-b]pyridine | 1.18 mmol, 433.6 mg | C(C1=CC=CC=C1)N1C(=C(C2=NC=CC(=C21)N2CC1=CC=CC=C1CC2)C)C | C25H25N3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-benzyl-7-(1,2,3,4-tetrahydroisoquinolin-2-yl)-3-hydroxymethyl-2-methyl-1H-pyrrolo[3,2-b]pyridine | C(C1=CC=CC=C1)N1C(=C(C2=NC=CC(=C21)N2CC1=CC=CC=C1CC2)CO)C | C25H25N3O
